US04329347
6-(4-Phenylsulfonyl-butoxy)-3,4-dihydro-carbostyril
Prepared analogous to Example 3 from 6-(4-phenylsulfinyl-butoxy)-3,4-dihydro-carbostyril and hydrogen peroxide.

reactant | 6-(4-phenylsulfinyl-butoxy)-3,4-dihydro-carbostyril | C1(=CC=CC=C1)S(=O)CCCCOC=1C=C2CCC(NC2=CC1)=O | C19H21NO3S
reactant | hydrogen peroxide | OO | H2O2
product | 6-(4-Phenylsulfonyl-butoxy)-3,4-dihydro-carbostyril | C1(=CC=CC=C1)S(=O)(=O)CCCCOC=1C=C2CCC(NC2=CC1)=O | C19H21NO4S
